US07396844B1
Synthesis of 4-[4-(3-cyanophenoxy)butyryl]benzonitrile
500 mg (1.16 mmol) of 3-[3-[2-(4-bromophenyl)-5,5-dimethyl-1,3-dioxane-2-yl]propoxy]benzonitrile and 114 mg (1.27 mmol) of copper (1) cyamide were stirred in 1 ml of dimethylformamide at 140° C. overnight. Saturated aqueous sodium hydrogencarbonate solution was added to the resultant mixture. After the extraction with ethyl acetate, the organic layer was washed with saturated aqueous NaCl solution, and then dried over anhydrous magnesium sulfate. The solvent was evaporated. 10 ml of ethanol and 2 ml of 6 N hydrochloric acid were added to the residue, and the resultant mixture was heated under reflux for 5 hours. The solvent was evaporated. 1 N hydrochloric acid was added to the residue. After the extraction with ethyl acetate, the extract was washed with saturated aqueous NaCl solution and then dried over anhydrous magnesium sulfate. The solvent was evaporated. The residue was purified by the silica gel chromatography with ethyl acetate hexane as the extractant to obtain the title compound.

reactant | 3-[3-[2-(4-bromophenyl)-5,5-dimethyl-1,3-dioxane-2-yl]propoxy]benzonitrile | 1.16 mmol, 500 mg | BrC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CCCOC=1C=C(C#N)C=CC1 | C22H24BrNO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | copper (1) | 1.27 mmol, 114 mg | [Cu+]
product | 4-[4-(3-cyanophenoxy)butyryl]benzonitrile | C(#N)C=1C=C(OCCCC(=O)C2=CC=C(C#N)C=C2)C=CC1 | C18H14N2O2
